US06369146B1
Di(2-methylbutyl)-DL-malate was prepared using a procedure similar to that in Example 4. To the reaction flask, DL-malic acid (100.56 g), 2-methyl-1-butanol (325 mL) and Amberlyst® 15 ion exchange resin (15.1 g) were added. The mixture was placed under nitrogen and heated to reflux. At 108° C., two phases started to collect in the Dean-Stark trap. After 1.5 hr, the reaction temperature was increased to 115° C. for 20 minutes and 120° C. for 20 minutes. Once water ceased to collect in the Dean-Stark trap, the product was diluted with diethyl ether, collected via filtration over a short bed of silica, washed 4 times with saturated sodium bicarbonate, once with water and dried over magnesium sulfate. The diethyl ether was removed via rotary evaporation. Di-(2-methylbutyl)-DL-malate was obtained as a low viscosity, clear, very light yellow liquid with no detectable odor (139.8 g, 68% yield) after removing residual 2-methyl-1-butanol via vacuum distillation.

reactant | DL-malic acid | 100.56 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | 2-methyl-1-butanol | 325 mL | CC(CO)CC | C5H12O
product | Di-(2-methylbutyl)-DL-malate | CC(COC(C(O)CC(=O)OCC(CC)C)=O)CC | C14H26O5
